US05021413
4.5-dihydro-6-oxo-4-[3-(pyrrolidin-1-ylmethyl)thiomorpholine-1-carbonyl]-6H-cyclopenta[b]thiophene hydrochloride
The procedure described in Example 24 was repeated, but using 0.96 g of 3-(pyrrolidin-1-ylmethyl)thiomorpholine, 1.39 ml of triethylamine and 1.0 g of 4,5-dihydro-6-oxo-6H-cyclopenta[b]thiophene-4-carbonyl chloride, to afford 0.5 g of the title compound, melting at 204°-223° C.

reactant | 3-(pyrrolidin-1-ylmethyl)thiomorpholine | 0.96 g | N1(CCCC1)CC1NCCSC1 | C9H18N2S
reactant | 4,5-dihydro-6-oxo-6H-cyclopenta[b]thiophene-4-carbonyl chloride | 1.0 g | O=C1CC(C2=C1SC=C2)C(=O)Cl | C8H5ClO2S
solvent | triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
product | 4.5-dihydro-6-oxo-4-[3-(pyrrolidin-1-ylmethyl)thiomorpholine-1-carbonyl]-6H-cyclopenta[b]thiophene hydrochloride | 0.5 g | Cl.O=C1CC(C2=C1SC=C2)C(=O)S2CC(NCC2)CN2CCCC2 | InChI=1S/C17H24N2O2S2.ClH/c20-15-9-14(13-3-7-22-16(13)15)17(21)23-8-4-18-12(11-23)10-19-5-1-2-6-19;/h3,7,12,14,18,23H,1-2,4-6,8-11H2;1H
